US06933311B2
N-(4-chlorobenzyl)-N′-(1-methyl-1H-indazol-4-yl)urea
1-Methyl-1H-indazol-4-amine (1.00 g, 6.8 mmol) in toluene (225 mL) was treated with phosgene (20% in toluene, 7 ml, 13.2 mmol). The mixture was heated at reflux for 3 hours, cooled, and the solvent removed under reduced pressure. The residue was taken in diethyl ether (100 ml) and triethyl amine (6 ml), and filtered. The filtrate was treated with 4-chlorobenzylamine (963 mg, 6.8 mmol). After stirring at ambient temperature for 16 hours, the solvent was reduced to half volume under reduced pressure, filtered, and the filter cake washed with diethyl ether:hexanes (1:1) to provide the title compound. The title compound was treated with HCl/ethanol and evaporated to dryness to provide the hydrochloride. 1H NMR (DMSO-d6) δ 9.25 (s, 1H), 8.25 (s, 1H), 7.68 (d, 1H), 7.39 (m, 5H), 7.24 (t, 1H), 7.13 (d, 1H), 4.34 (s, 2H), 3.99 (s, 3H); MS (ESI) m/z 315 (M+H)+.

reactant | 1-Methyl-1H-indazol-4-amine | 6.8 mmol, 1.00 g | CN1N=CC=2C(=CC=CC12)N | C8H9N3
reactant | phosgene | 13.2 mmol, 7 ml | C(=O)(Cl)Cl | CCl2O
reactant | 4-chlorobenzylamine | 6.8 mmol, 963 mg | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | toluene | 225 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-chlorobenzyl)-N′-(1-methyl-1H-indazol-4-yl)urea | ClC1=CC=C(CNC(=O)NC2=C3C=NN(C3=CC=C2)C)C=C1 | C16H15ClN4O
